US06812224B2
3-(N-hydroxyamino)-propionylphosphonic Acid
0,2 mol trimethylsilylbromide are slowly added to a solution of 0,1 mol 3-(N-hydroxyamino)-propionylphosphonic acid dimethylester in 100 ml of absolute acetonitrile. After 3 hours of stirring at room temperature the solution is concentrated and taken up in 50 ml methanol. After stirring for 30 minutes it is concentrated again. 3-(N-hydroxyamino)-propionylphosphonic acid may be further be converted without purification.

reactant | trimethylsilylbromide | 0,2 mol | C[Si](C)(C)Br | C3H9BrSi
reactant | 3-(N-hydroxyamino)-propionylphosphonic acid dimethylester | 0,1 mol | COP(OC)(=O)C(CCNO)=O | C5H12NO5P
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 3-(N-hydroxyamino)-propionylphosphonic Acid | ONCCC(=O)P(O)(O)=O | C3H8NO5P
